US07465731B2
To a solution of ethyl (2E)-3-[5-chloro-6-(4-piperidylamino)-3-pyridyl]acrylate dihydrochloride (710 mg) in CH2Cl2 (14 ml) was added Et3N (0.517 ml), the mixture was stirred at 23° C. for 30 minutes. To the mixture was added 4-Methyl-benzaldehyde (0.241 ml) and SODIUM triacetoxyborohydride (590 mg), the mixture was stirred at 23° C. for 24 hours. The reaction mixture was poured into sat.NaHCO3aq. (20 ml)-AcOEt (20 ml). The organic layer was washed with water, dried over magnesium sulfate and concentrated. The residue was purified by silica gel column chromatography eluted with 5% MeOH in dichloromethane to give ethyl (2E)-3-(5-chloro-6-{[1-(4-methylbenzyl)-4-piperidyl]amino}-3-pyridyl)acrylate (671 mg).

reactant | ethyl (2E)-3-[5-chloro-6-(4-piperidylamino)-3-pyridyl]acrylate dihydrochloride | 710 mg | Cl.Cl.ClC=1C=C(C=NC1NC1CCNCC1)/C=C/C(=O)OCC
reactant | Et3N | 0.517 ml | CCN(CC)CC | C6H15N
reactant | 4-Methyl-benzaldehyde | 0.241 ml | CC1=CC=C(C=O)C=C1 | C8H8O
reactant | SODIUM triacetoxyborohydride | 590 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | CH2Cl2 | 14 ml | C(Cl)Cl | CH2Cl2
solvent | AcOEt | 20 ml | CCOC(=O)C | C4H8O2
product | ethyl (2E)-3-(5-chloro-6-{[1-(4-methylbenzyl)-4-piperidyl]amino}-3-pyridyl)acrylate | 671 mg | ClC=1C=C(C=NC1NC1CCN(CC1)CC1=CC=C(C=C1)C)/C=C/C(=O)OCC | C23H28ClN3O2
